US04110447
25.9 g of 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutylamine p-toluenesulfonate are boiled with 1 g of p-toluenesulfonic acid in 500 ml of toluene for 2 hours under a water separator, and the mixture is cooled and worked up with sodium hydroxide solution to give 3-(4'-fluoro-4-biphenylyl)-2-buten-1-yl-amine.

reactant | 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutylamine p-toluenesulfonate | 25.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)(C)O
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4'-fluoro-4-biphenylyl)-2-buten-1-yl-amine | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=CCN)C | C16H16FN
